US06974582B2
To 35.0 g of L-arginine were added 118.7 g of acetone and 200 g of water. Thereto were concurrently added dropwise 36.5 g of lauroyl chloride (“lauroyl chloride” manufactured by Nippon Oil and Fats Co., Ltd.) and 45 ml of 8N NaOH aqueous solution over a period of 2 hours with the pH being maintained at 11.5 to 12.0 and the reaction temperature being maintained at 15 to 25° C. After 2 hours of aging, the reaction mixture was adjusted to pH 5.0 with 6N sulfuric acid with cooling and then poured into about 300 ml of ice-water to precipitate crude crystals of mono-Nα-lauroyl-L-arginine, which were collected by filtration and then dried (yield 55 g). The crude crystals were washed by stirring in 300 ml of petroleum benzine and then filtered, and the crystals were dried under reduced pressure to obtain 51 g of mono-Nα-lauroyl-L-arginine (yield 85%).

reactant | L-arginine | 35.0 g | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | lauroyl chloride | 36.5 g | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | NaOH | 8N, 45 ml | [OH-].[Na+]
reactant | sulfuric acid | 6N | S(O)(O)(=O)=O | H2O4S
solvent | water | 200 g | O | H2O
solvent | acetone | 118.7 g | CC(=O)C | C3H6O
product | mono-Nα-lauroyl-L-arginine | 51 g, yield 85% | C(CCCCCCCCCCC)(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C18H36N4O3
